US08791132B2
To a solution of 9-(2-azido-2-(pyridin-4-yl)ethyl)-2,6-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (800 mg, 2.3 mmol) in ethanol-water (9 mL:1 mL) were added zinc dust (600 mg, 9.2 mmol) and ammonium chloride (490 mg, 9.2 mmol) and the reaction mixture stirred at 85° C. for 45 min. The reaction mixture was filtered and the filtrate concentrated. The residue was basified with aqueous ammonia and extracted with EtOAc (2×50 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude material was purified by reverse phase HPLC to yield 2-(2,6-dimethyl-3,4-dihydro-1H-pyrido[3,4-b]indol-9(2H)-yl)-1-(pyridin-4-yl)ethanamine (25 mg). The racemate can be further separated into the optically active forms by chiral preparative HPLC. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.6 (s, 2H), 7.62 (bs, 2H), 7.23 (s, 1H), 7.0 (d, 1H), 6.98 (d, 1H), 4.9 (m, 1H), 4.8-4.58 (m, 3H), 4.0 (bs, 1H), 3.8 (bs, 1H), 3.6-3.4 (m, 2H), 3.1 (bs, 4H), 2.38 (s, 3H).

reactant | 9-(2-azido-2-(pyridin-4-yl)ethyl)-2,6-dimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 2.3 mmol, 800 mg | N(=[N+]=[N-])C(CN1C2=C(C3=CC(=CC=C13)C)CCN(C2)C)C2=CC=NC=C2 | C20H22N6
reactant | ammonium chloride | 9.2 mmol, 490 mg | [Cl-].[NH4+]
solvent | ethanol water | 9 mL | C(C)O.O
catalyst | zinc | 9.2 mmol, 600 mg | [Zn] | Zn
product | 2-(2,6-dimethyl-3,4-dihydro-1H-pyrido[3,4-b]indol-9(2H)-yl)-1-(pyridin-4-yl)ethanamine | 25 mg | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CC(N)C1=CC=NC=C1 | C20H24N4
